US06492355B1
a) [1-(3-Methyl-4-nitrophenyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester
4-Fluoro-2-methyl-1-nitrobenzene (1 g), pyrrolidin-3-ylcarbamic acid tert-butyl ester (1.2 g), potassium carbonate (1.79 g) and dimethyl sulfoxide (10 ml) were heated together at 80° C. under nitrogen for 15 h. The mixture was then cooled, diluted with ethyl acetate (200 ml), washed with 2N aqueous hydrochloric acid (200 ml), dried (MgSO4) then concentrated. Purification of the residue by silica gel chromatography (eluting with 20% ethyl acetate in isohexane) gave the subtitle compound (1.744 g).

reactant | 4-Fluoro-2-methyl-1-nitrobenzene | 1 g | FC1=CC(=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | pyrrolidin-3-ylcarbamic acid tert-butyl ester | 1.2 g | C(C)(C)(C)OC(NC1CNCC1)=O | C9H18N2O2
reactant | potassium carbonate | 1.79 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | [1-(3-Methyl-4-nitrophenyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | 1.744 g | C(C)(C)(C)OC(NC1CN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])C)=O | C16H23N3O4
